US08309562B2
2-{4-[(4-Methoxy-phenyl)-methyl-amino]-5,6,7,8-tetrahydro-quinazolin-2-ylamino}-ethanol
A mixture of (2-chloro-5,6,7,8-tetrahydro-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine 0.150 g (0.5 mmol), ethanolamine 0.2 mL (3.0 mmol) with Et3N 0.2 mL in isopropanol 5 mL was stirred at 100° C. for 48 h. The reaction mixture was diluted with CH2Cl2, and directly charged to gradient column chromatography (MeOH/CH2Cl2, 0% to 20%) to give the title compound. For analytical use, it was further purified with preparative HPLC to give the corresponding TFA salt. 1H NMR (CD3OD, 400 MHz) δ 7.19 (d, J=8.0 Hz, 2H,), 6.98 (d, J=8.0 Hz, 2H), 3.83 (s, 3H), 3.76 (t, J=5.6 Hz, 2H), 3.62 (t, J=5.6 Hz, 2H), 3.50 (s, 3H), 2.59 (t, J=6.5 Hz, 2H), 1.60-1.66 (m, 2H), 1.55-1.58 (m, 2H), 1.41-1.46 (m, 2H); HRMS (ES) m/z calcd for C18H24N4O2 (M+H) 329.1972, found 329.1962.

reactant | (2-chloro-5,6,7,8-tetrahydro-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine | 0.5 mmol, 0.150 g | ClC1=NC=2CCCCC2C(=N1)N(C)C1=CC=C(C=C1)OC | C16H18ClN3O
reactant | ethanolamine | 3.0 mmol, 0.2 mL | C(O)CN | C2H7NO
reactant | Et3N | 0.2 mL | CCN(CC)CC | C6H15N
reactant | MeOH CH2Cl2 | CO.C(Cl)Cl
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-{4-[(4-Methoxy-phenyl)-methyl-amino]-5,6,7,8-tetrahydro-quinazolin-2-ylamino}-ethanol | COC1=CC=C(C=C1)N(C1=NC(=NC=2CCCCC12)NCCO)C | C18H24N4O2
